Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C@:2]([H:3])(/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])=[C:6]([H:7])[O:8][H:9].[O:1]=[C:2]([H:3])[C:10]([H:11])([H:12])[H:13],1.21615950899
[C:1][O:2][H:3]>>[C:1].[O:2][H:3],7.01421665698
[H:13].[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])=[C:11][H:12]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-5.15066896349
[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11]>>[C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11].[O:1],4.25398134011
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])[H:10]>>[H:1].[O:2]=[C:3]([O:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],0.351188761269
[H:1][O:2][C:3]#[C:9][C:4][O:5][C:6]([H:7])[H:8]>>[H:1][O:2][C:3]1=[C:4]([O:5][C:6]([H:7])[H:8])[C:9]1,-0.6203807301609999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9].[H:1],5.92982384371
[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9].[H:1]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9],-4.29369078641
[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.170065158530003
[H:1][O:2][C:3]1=[C:4][O:5][C:6]([H:7])([H:8])[C:9]1([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],1.48912027062
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4][C:5][H:6]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.20187812203
[C:8][H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:10][H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8][H:9])=[C:10][H:11],-2.95362614422
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10].[O:1]=[C:2][H:3],4.795982926630001
[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:4][H:5],5.11349315737
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.59403196256
[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-6.47954257503
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.67401622243
[H:1][O:2][C:3]#[C:4][C:6]([H:7])=[C:8]([H:9])[H:10].[H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-2.37723872964
[O:1]=[C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.57190967177
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.23830967601
[H:10].[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:11]([H:12])[H:13]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.72576038915
[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.77686880451
[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3][C:4]#[C:5],4.2836108535
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[O:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],2.72538384422
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4],3.72211393299
[C:1]#[C:2]/[C:3]([O:4][H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10]>>[C:1][C:2]#[C:3][C:6]([H:7])=[C:8]([H:9])[H:10].[O:4][H:5],5.62514272436
[H:1][O:2]/[C:3](=[C:4](/[H:5])[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2]/[C:3](=[C:4](/[H:5])[O:6][C:7]([H:8])[H:9])[C:10]([H:11])[H:12],3.55869497803
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],2.47571254611
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:7]=[C:8]([H:9])[C:10]([H:11])[H:12],1.48708774928
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.2747419183
